US07884207B2
A mixture of 4-{[(3-nitroquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol (9.00 g, 29.7 mmol) and 5% platinum on carbon (0.90 g) in acetonitrile (180 mL) was hydrogenated according to the method described in Part D of Example 9 to yield 4-{[(3-aminoquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol as a brown solid (7.60 g, 94%).

reactant | 4-{[(3-nitroquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol | 29.7 mmol, 9.00 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCOCC1)O | C15H17N3O4
catalyst | platinum on carbon | 0.90 g | [Pt] | Pt
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 4-{[(3-aminoquinolin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol | 7.60 g, 94% | NC=1C=NC2=CC=CC=C2C1NCC1(CCOCC1)O | C15H19N3O2
